US07060827B2
In like manner to the preparation of 2-chloro-N4-(3,4-ethylenedioxyphenyl)-5-fluoro-4-pyrimidineamine, 2,4-dichloro-5-fluoropyrimidine was reacted with di[3,5-di(trifluoromethyl)phenyl]methylamine to provide 2-chloro-N4-[[di(3,5-di(trifluoromethyl)phenyl)]methyl]-5-fluoro-4-pyrimidineamine. 1H NMR (CDCl3): δ 8.06 (d, 1H, J=2.3 Hz), 7.92 (s, 2H), 7.74 (s, 4H), 6.75 (d, 1H, J=7.6 Hz), 5.80 (d, 1H, J=7.0 Hz).

reactant | 2,4-dichloro-5-fluoropyrimidine | ClC1=NC=C(C(=N1)Cl)F | C4HCl2FN2
reactant | di[3,5-di(trifluoromethyl)phenyl]methylamine | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)N)(F)F | C17H9F12N
product | 2-chloro-N4-[[di(3,5-di(trifluoromethyl)phenyl)]methyl]-5-fluoro-4-pyrimidineamine | ClC1=NC=C(C(=N1)NC(C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)F | C21H9ClF13N3
